US07592477B2
Step a) Formation of benzyl 4-[({(1S)-1-[4-(trifluoromethyl)phenyl]ethyl}amino)methyl]benzoate
The same procedure as employed in the preparation of Example 226 (step a) but using benzyl 4-formylbenzoate and (1S)-1-[4-(trifluoromethyl)phenyl]ethylamine gave the title compound as a pale yellow oil (83%). M+(LC/MS(ESI)): 414.3. HPLC (Condition A), Rt: 3.77 min (HPLC purity: 99.1%).

reactant | benzyl 4-formylbenzoate | C(=O)C1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C15H12O3
reactant | (1S)-1-[4-(trifluoromethyl)phenyl]ethylamine | FC(C1=CC=C(C=C1)[C@H](C)N)(F)F | C9H10F3N
product | benzyl 4-[({(1S)-1-[4-(trifluoromethyl)phenyl]ethyl}amino)methyl]benzoate | 83% | FC(C1=CC=C(C=C1)[C@H](C)NCC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)(F)F | C24H22F3NO2
